US05164397
c) 3-[4-(3-Chlorophenyl)piperazin-1-yl]-N-(triphenylmethyl)propanamine
A mixture of 5.9 g (30 mmol) of 1-(3-chlorophenyl)piperazine, 12.55 g (33 mmol) of 3-bromo-N-(triphenylmethyl)propanamine, 6.2 g (45 mmol) of potassium carbonate and 60 ml of dimethylformamide is stirred at 90° C. for 6.5 h under argon. The mixture is then poured into iced water and is extracted with ethyl acetate. The organic phase is separated off, is washed with water, is dried and the solvent is evaporated off. 15.7 g of oily residue are obtained and are purified by chromatography on a column of silica gel by eluting with a 99/1 dichloromethane/methanol mixture, which yields 11.8 g of light yellow oil.

reactant | 1-(3-chlorophenyl)piperazine | 30 mmol, 5.9 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
reactant | 3-bromo-N-(triphenylmethyl)propanamine | 33 mmol, 12.55 g | BrCCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22BrN
reactant | potassium carbonate | 45 mmol, 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[4-(3-Chlorophenyl)piperazin-1-yl]-N-(triphenylmethyl)propanamine | 15.7 g | ClC=1C=C(C=CC1)N1CCN(CC1)CCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H34ClN3
